US20010020101A1
220 g (0.67 mol) of meso-2,3-bis(benzylamino)succinic acid were placed under a nitrogen atmosphere in a 2 l flask fitted with two dropping funnels, a pH electrode, and a stirrer. The meso-2,3-bis(benzylamino)succinic acid was then suspended, while stirring, in 800 ml of tetrahydrofuran and 400 ml of deionized water and brought into solution by the addition of 108 ml of a 50% potassium hydroxide solution. 200 ml of 2.4 mole q. phenyl chloroformate were added dropwise to the solution within 3.5 hours. The pH was maintained between 9 and 11 during the addition of phenyl chloroformate by the successive addition of a 50% potassium hydroxide solution, and the internal temperature was maintained between 30° C. and 35° C. After the addition was completed, the mixture was stirred at about 30° C. for 2 hours and the pH was adjusted to about 7-8 with concentrated hydrochloric acid. The aqueous solution was then extracted twice with toluene and 500 ml of tetrahydrofuran were added to the combined aqueous phases. The mixture was adjusted to a pH of 1.0 with 37% hydrochloric acid and the aqueous phase was separated off. 400 ml of toluene were added to the tetrahydrofuran phase and the tetrahydrofuran was distilled off under reduced pressure. The remaining water was removed azeotropically with toluene. The residual brownish, oily solution was seeded and the crystalline solid was filtered off and washed twice with toluene. After drying to constant weight under reduced pressure, there were obtained 181.5 g (76% yield) of 2-oxo-1,3-dibenzyl-cis-4,5-imidazolidinedicarboxylic acid, with a melting point of 172.8° C.

reactant | meso-2,3-bis(benzylamino)succinic acid | 0.67 mol, 220 g | C1=CC=C(C=C1)CNC(C(C(=O)O)NCC2=CC=CC=C2)C(=O)O | C18H20N2O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | phenyl chloroformate | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | water | 400 ml | O | H2O
product | 2-oxo-1,3-dibenzyl-cis-4,5-imidazolidinedicarboxylic acid | 181.5 g, 76% yield | O=C1N([C@@H]([C@@H](N1CC1=CC=CC=C1)C(=O)O)C(=O)O)CC1=CC=CC=C1 | C19H18N2O5
